Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Subarachnoid hemorrhage 
 
Major Surgical or Invasive Procedure:
___: diagnostic cerebral angiogram (positive for p.comm 
aneurysm)
___: angiogram for coiling of pComm aneurysm 

 
History of Present Illness:
___ y/o ___ female transferred from OSH with
WHOL and imaging showing SAH. She experienced a sudden onset 
WHOL
at 7:30PM this evening while at a funeral. She headache was
localized to the top of her head and at the base of her skull.
She also noted a transient episode of hearing loss when the
headache started. Her hearing has returned to normal. The
headache continued and she was taken to ___ 
___
for further evaluation. She underwent a CT without contrast at
the CHA which showed a subarachnoid hemorrhage in the left
sylvian fissure and basilar cisterns. She was transferred to
___ for further evaluation. 

The patient continues with complaints of a headache which is
located at the top of her head and at the base of her skull. She
also reports bilateral lower facial, jaw, and tongue numbness 
and
tingling which has improved since the onset of the headache. She
denies numbness, tingling, pain, and weakness of the upper and
lower extremities bilaterally. However, she does endorse chest
pain within the upper portion of the left arm. She denies SOB,
nausea, vomiting, fever, chills, diplopia, dizziness, blurred
vision, or speech-language difficulties.  

 
Past Medical History:
HTN
Hyperlipidemia
Depression
Arthritis
H Pylori
Colon polyp
Bilateral osteoarthritis of the knees
s/p right total knee replacement
Colon polyp
Gastritis
___ esophagus
 
Social History:
___
Family History:
No family history of neurologic diease or aneurysms.

 
Physical Exam:
On Discharge: 
___ speaking, limited ___
A&Ox3
PERRL 
Face symmetric 
No drift 
MAE ___ strength 
 
Pertinent Results:
CTA HEAD W&W/O C & RECONS Study Date of ___ 2:25 AM 
IMPRESSION: 
1. 3-mm aneurysm is seen directed laterally at the origin of the 
left 
posterior communicating artery and a 2 mm aneurysm is seen 
directed medially at the origin of left posterior communicating 
artery.  
2. Diminutive left vertebral artery with ___ termination. 
Dominant right vertebral artery. Otherwise, the posterior 
circulation is unremarkable. 
3. No significant interval change in the extent of the 
subarachnoid 
hemorrhage, compared to the prior exam from ___. 
Probable 
bi-frontal small subdural hematomas (3;17). 
4. Hypoplastic left transverse sinus, likely congenital. The 
remainder the 
dural venous sinuses are patent. 
  

INTRACRANIAL COILING Study Date of ___ 2:25 ___ 
IMPRESSION: 
1. Successful coiling of a left PCOM artery aneurysm compatible 
with ___ and ___ grade 

CTA HEAD W&W/O C & RECONS Study Date of ___ 8:55 ___ 
CT head: No definite subarachnoid blood identified. No new 
hemorrhage.  

CTA head: There is no definite evidence of vasospasm of the 
circle of ___ 
although of the left MCA is possibly slightly more narrow and 
irregular 
compared to study from ___. 
  
CT neck: The a neck vessels are patent without stenosis, 
occlusion, or 
dissection 
 
Brief Hospital Course:
___ year old female who experienced a sudden onset WHOL while at 
a funeral. She reported headache which was localized to the top 
of her head and at the base of her skull. She also noted a 
transient episode of hearing loss when the
headache started. She was taken to an OSH where imaging 
demonstrated subarachnoid hemorrhage in the left sylvian fissure 
and basilar cisterns.

#___: On arrival to ___ a CT/CTA was performed and 
demonstrated a 3-mm aneurysm on the posterior communicating 
artery and a 2 mm aneurysm medially  at the origin of left 
posterior communicating artery.  She was started on Keppra and 
Nimodipine. She underwent a diagnostic angiogram which confirmed 
the PCOMM aneursm. The patient was taken back to the angio suite 
on ___ for a coiling of the aneurysm. She tolerated the 
procedure well and was transferred back to the NICU for postop 
care. She developed slight R pronator drift postop which 
improved. She was transferred to ___ on POD #1. TCDs were 
completed on ___ and were negative for vasospasm, howevever 
limited due to poor bone window. She remained stable and was 
transferred to the floor on ___. She was continued on 
Nimodipine and IVF. CTA was done for vasospasm watch on ___ 
which did not demonstrate vasospasm. She was evaluated by 
physical therapy and was cleared for safe discharge to home.

On day of discharge (___) Patient was neurologically stable and 
discharged to home with services in good condition. She was set 
up for home ___ and ___ services. Family confirmed they would 
provide home supervision for the first few days after discharge. 
She was given prescription to continue her 21 day course of 
Nimodipine for vasospasm prevention. 
 
Medications on Admission:
Unknown.
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital 1 TAB PO Q4H:PRN Pain - Severe 

Do not exceed >4g of acetaminophen in 24 hours including from 
other sources 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg 1 tablet(s) 
by mouth Q4-6H PRN headache Disp #*90 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*12 
3.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily PRN constipation 
Disp #*60 Tablet Refills:*0 
4.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
5.  NiMODipine 60 mg PO Q4H 
RX *nimodipine 30 mg 2 capsule(s) by mouth every four (4) hours 
Disp #*144 Capsule Refills:*0 
6.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*3 
7.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4-6H PRN pain Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Subarachnoid Hemorrhage
Posterior Communicating Artery Aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery/ Procedures:
•You had a cerebral angiogram to coil the aneurysm. You may 
experience some mild tenderness and bruising at the puncture 
site (groin).

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•You make take a shower. 
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you must refrain 
from driving. 

Medications
•Resume your normal medications and begin new medications as 
directed.
•You have been discharged on a medication called Nimodipine. 
This medication is used to help prevent cerebral vasospasm 
(narrowing of blood vessels in the brain). 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication until follow-up. It is important that you take this 
medication consistently and on time. 
•You have been discharged on a medication to lower your 
cholesterol levels. We recommend that you continue this 
medication indefinitely. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•Mild to moderate headaches that last several days to a few 
weeks.
•Difficulty with short term memory. 
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site or puncture site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___